US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 3-(4-pyridylmethoxy)-benzaldehyde dimethyl acetal in an analogous manner to that described in Example 1 gave 9-[3-(4-pyridylmethoxy)-phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from methanol/water gave a yellow crystalline solid of melting point 156-158° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-(4-pyridylmethoxy)-benzaldehyde dimethyl acetal | COC(C1=CC(=CC=C1)OCC1=CC=NC=C1)OC | C15H17NO3
product | 9-[3-(4-pyridylmethoxy)-phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | N1=CC=C(C=C1)COC=1C=C(C=CC1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O | C29H32N2O3
